US04590198
4-Bromo-2-benzoyl-isonicotinanilide dimethyl ketal (Compound No. 3)
4-Bromo-2-benzoyl-isonicotinanilide (12.7 g) was treated as in Synthesis 11 except that ethyl alcohol was replaced by methyl alcohol and potassium hydroxide by sodium hydroxide (3 g). The titled compound was obtained in an amount of 11.4 g (yield: 80%). m.p. 189°-190° C.

reactant | 4-Bromo-2-benzoyl-isonicotinanilide | 12.7 g | BrC1(C(=O)NC2=CC=CC=C2)CC(=NC=C1)C(C1=CC=CC=C1)=O | C19H15BrN2O2
reactant | ethyl alcohol | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium hydroxide | 3 g | [OH-].[Na+]
reactant | methyl alcohol | CO | CH4O
product | 4-Bromo-2-benzoyl-isonicotinanilide dimethyl ketal | yield: 80% | COC(C1(CC(=NC=C1)C(C1=CC=CC=C1)=O)Br)(NC1=CC=CC=C1)OC | C21H21BrN2O3
